US05068413
(1-Cyanocyclohexyl)-malonic acid
50 g Diethyl (1-cyanocyclohexyl)-malonate are dissolved in 175 mL methanol at 40° C. At this temperature, a solution of 29.9 g sodium hydroxide in 150 mL water is added dropwise. The reaction mixture is stirred for 30 minutes at 40° C. After cooling to 20° C., the precipitated product (sodium salt) is filtered off with suction, the filter cake is washed with 50 mL methanol and the product is dried at 60° C. to constant weight. The product is dissolved in 500 mL of water at 10° C., and adjusted to a pH of one to two at 10-15° C. with concentrated hydrochloric acid. The substance which precipitates out is extracted three times with, in each case, 300 mL ethyl acetate. The combined ethyl acetate phases are dried and evaporated on a rotary evaporator at 35° C. The white residue obtained is dried to constant weight at 35° C. in a vacuum drying cabinet. 35.5 g of the title compound are obtained (89.8% of theory); m.p. 99.9° C.

reactant | Diethyl (1-cyanocyclohexyl)-malonate | 50 g | C(#N)C1(CCCCC1)C(C(=O)OCC)C(=O)OCC | C14H21NO4
reactant | sodium hydroxide | 29.9 g | [OH-].[Na+]
solvent | methanol | 175 mL | CO | CH4O
solvent | water | 150 mL | O | H2O
product | (1-Cyanocyclohexyl)-malonic acid | 35.5 g | C(#N)C1(CCCCC1)C(C(=O)O)C(=O)O | C10H13NO4
